US07491672B2
A. Preparation of 3-hydroxy-N,N-dimethylanilinium chloride
3-dimethylaminophenol, 10.2 g, was slurried in 75 mL of anhydrous diethyl ether and 82 mL of a 1 M HCl solution in ether was added by canula under positive nitrogen pressure. After two hours the white solid precipitate was collected on a fritted funnel, washed with ether and dried in vacuo.

reactant | 3-dimethylaminophenol | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | HCl | 1 M | Cl | ClH
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 3-hydroxy-N,N-dimethylanilinium chloride | [Cl-].OC=1C=C([NH+](C)C)C=CC1 | InChI=1S/C8H11NO.ClH/c1-9(2)7-4-3-5-8(10)6-7;/h3-6,10H,1-2H3;1H
